US03992535
4-Hydroxy-N-(3-hydroxy-2-pyridyl)-2-methyl-2H-naphtho[2,1-e]1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 1 from 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide and 2-amino-3-hydroxy-pyridine. Yield: 40% of theory; m.p. 255° C (decomp.).

reactant | 4-hydroxy-2-methyl-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-amino-3-hydroxy-pyridine | NC1=NC=CC=C1O | C5H6N2O
product | 4-Hydroxy-N-(3-hydroxy-2-pyridyl)-2-methyl-2H-naphtho[2,1-e]1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 40% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=NC=CC=C1O | C19H15N3O5S
